US08580841B2
Step B: Preparation of Methyl 3-Cyano-4-(trifluoromethylsulfonyloxy)benzoate.
To a suspension of methyl 3-cyano-4-hydroxybenzoate (1.24 g, 7.0 mmol) in dichloromethane (35 mL) was added trifluoromethanesulfonic anhydride (1.8 mL, 10.7 mmol), diisopropylethylamine (1.8 mL, 10.3 mmol), and N,N-dimethylaminopyridine (0.21 g, 1.75 mmol) at 0° C. The mixture was stirred at room temperature overnight. The reaction was quenched with 1 N aqueous HCl solution. The organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined organic layers were dried over anhydrous magnesium sulfate, concentrated under reduced pressure and purified by silica gel column chromatography to provide the title compound as a brown oil (1.44 g). 1H NMR (400 MHz, CDCl3) δ ppm 3.99 (s, 3H), 7.59 (d, J=8.84 Hz, 1H), 8.37 (dd, J=8.84, 2.15 Hz, 1H), 8.44 (d, J=2.02 Hz, 1H).

reactant | methyl 3-cyano-4-hydroxybenzoate | 7.0 mmol, 1.24 g | C(#N)C=1C=C(C(=O)OC)C=CC1O | C9H7NO3
reactant | trifluoromethanesulfonic anhydride | 10.7 mmol, 1.8 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | diisopropylethylamine | 10.3 mmol, 1.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | Methyl 3-Cyano-4-(trifluoromethylsulfonyloxy)benzoate | 1.44 g | C(#N)C=1C=C(C(=O)OC)C=CC1OS(=O)(=O)C(F)(F)F | C10H6F3NO5S
